US08252806B2
Allyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A5)
Was prepared according to Method A from 2,4-dichloroquinazoline, allylamine and 3,5-dimethylpyrazole. Mp. 211-212° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | allylamine | C(C=C)N | C3H7N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Allyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C(C=C)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C16H17N5.ClH/c1-4-9-17-15-13-7-5-6-8-14(13)18-16(19-15)21-12(3)10-11(2)20-21;/h4-8,10H,1,9H2,2-3H3,(H,17,18,19);1H
